*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-02[uF]/10[V]
* Murata P/N :GRM155R71A683KA01
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71A683KA01 Port1 Port2
C01 Port1 N01 6.43e-08
R01 Port1 N01 7.35e+09
L02 N01 N02 1.62e-10
R03 N02 N03 2.20e-02
C04 N03 N04 6.78e-06
R04 N03 N04 5.87e+02
C05 N04 N05 1.41e-05
R05 N04 N05 4.77e+01
C06 N05 N06 8.78e-06
R06 N05 N06 1.81e+01
C07 N06 N07 7.64e-06
R07 N06 N07 2.08e+00
C08 N07 N08 7.55e-06
R08 N07 N08 2.24e-01
C09 N08 N09 1.68e-05
R09 N08 N09 3.87e-02
C10 N09 N10 3.93e-06
R10 N09 N10 2.37e-02
L11 N10 N11 1.42e-11
R11 N10 N11 1.22e-01
L12 N11 N12 7.93e-11
R12 N11 N12 7.83e-02
C13 N12 N13 6.40e-08
L13 N12 N13 4.12e-11
R13 N12 N13 2.79e-02
C14 N13 Port2 2.60e-12
L14 N13 Port2 1.12e-10
R14 N13 Port2 2.09e+01
.ENDS GRM155R71A683KA01
